US07435837B2
To a solution of 4-chloro-2-cyclohexylphenol (23.00 g, 0.109 mol) in N,N-dimethylformamide (600 mL) was added sodium hydride (4.56 g, 0.114 mol, 60 wt. %) followed by allyl bromide (14.51 g, 0.120 mol) and the reaction mixture was allowed to stir at room temperature for 5 h. The solvent was removed in vacuo and the residue diluted with water (500 mL) and extracted with ethyl acetate (2×300 mL). The combined organic layers were washed with water (500 mL), saturated aqueous sodium chloride (500 mL), dried (magnesium sulfate), and the solvent removed in vacuo to give 29.0 g of 1-(allyloxy)-4-chloro-2-cyclohexylbenzene as a brown oil. Treatment of the allyl ether in refluxing mesitylene generally according to the procedure described for Intermediate 8 provided 18.0 g of 2-allyl-4-chloro-6-cyclohexylphenol. Treatment of the phenol (6.5 g, 0.026 mol) with 3-chloroperoxybenzoic acid (9.88 g, 0.045 mol, 77%) followed by potassium carbonate (10.00 g, 0.072 mol) generally according to the procedure described for Intermediate 9 afforded 4.6 g (67%) of (±)-(5-chloro-7-cyclohexyl-2,3-dihydro-1-benzofuran-2-yl)methanol as a white solid. mp 67-69° C.; Anal. calcd. for C15H19ClO2: C, 67.54; H, 7.18. Found: C, 67.81; H, 6.98.

reactant | 4-chloro-2-cyclohexylphenol | 0.109 mol, 23.00 g | ClC1=CC(=C(C=C1)O)C1CCCCC1 | C12H15ClO
reactant | sodium hydride | 0.114 mol, 4.56 g | [H-].[Na+]
reactant | allyl bromide | 0.120 mol, 14.51 g | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 600 mL | CN(C=O)C | C3H7NO
product | 1-(allyloxy)-4-chloro-2-cyclohexylbenzene | 29.0 g | C(C=C)OC1=C(C=C(C=C1)Cl)C1CCCCC1 | C15H19ClO
